US09255090B2
Synthesis of (±)-2-Methyl-3-pyridin-2-yl-propionic acid (C9H11NO2, MW=165.08)
To a solution of (±)-2-methyl-3-pyridin-2-yl-propionic acid ethyl ester (250 mg, 1.29 mmol, 1.0 eq.) in dioxane (8 mL), lithium hydroxide monohydrate (67 mg, 1.55 mmol, 1.2 eq.) in water (5 mL) was added in portions keeping the temperature below 30° C. The resulting solution was stirred at r.t. for 18 hours. The mixture was concentrated in vacuo The residue was dissolved in water (3 mL), MeCN (1 mL) and formic acid (0.5 mL). The solution was directly purified by prep. HPLC (column: Atlantis, 30×75 mm, 10 um, UV/MS, acidic conditions, extremely polar method) and concentrated in vacuo to give the title compound as a white solid.

reactant | (±)-2-methyl-3-pyridin-2-yl-propionic acid ethyl ester | 1.29 mmol, 250 mg, 1.0 eq. | C(C)OC(C(CC1=NC=CC=C1)C)=O | C11H15NO2
reactant | lithium hydroxide monohydrate | 1.55 mmol, 67 mg, 1.2 eq. | O.[OH-].[Li+]
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
product | (±)-2-Methyl-3-pyridin-2-yl-propionic acid | CC(C(=O)O)CC1=NC=CC=C1 | C9H11NO2
